US04861798
9(4-Butoxyphenyl)nonanohydroxamic acid
To a cold, stirring suspension of 1.1 gm hydroxylamine hydrochloride and 1.5 gms sodium carbonate in 25 ml CH2Cl2 was added dropwise 3.7 gms 9(4-butoxyphenyl)nonanoyl chloride. This mixture was stirred in the cold for 1/2 hr and then for 72 hrs at room temperature. The reaction mixture was filtered. The precipitated solid was crystallized three times from CH2Cl2 (treating with charcoal during the second crystallization) to give 1.1 gms of product of m.p. 99°-101°. Elemental analysis: calculated C 70.99, H 9.72, N 4.36% found C 70.75, H 9.64, N 4.34%.

reactant | hydroxylamine hydrochloride | 1.1 gm | Cl.NO
reactant | sodium carbonate | 1.5 gms | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9(4-butoxyphenyl)nonanoyl chloride | 3.7 gms | C(CCC)OC1=CC=C(C=C1)CCCCCCCCC(=O)Cl | C19H29ClO2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 9(4-Butoxyphenyl)nonanohydroxamic acid | 1.1 gms | C(CCC)OC1=CC=C(C=C1)CCCCCCCCC(=O)NO | C19H31NO3
